US09193707B2
2. Synthesis of 6,7-dimethoxy-2-(3,4,5-trimethoxyphenyl)quinazolin-4-ol
Into a 500-mL 3-necked round-bottom flask, was placed 2-amino-4,5-dimethoxybenzamide (12 g, 61.16 mmol, 1.00 equiv), dimethylacetamide (200 mL), 3,4,5-trimethoxybenzaldehyde (12 g, 61.16 mmol, 1.00 equiv) and NaHSO3 (9.55 g, 91.83 mmol, 1.50 equiv). The resulting solution was stirred overnight at 139° C. The mixture was cooled to room temperature. The resulting solution was diluted with 800 mL of water. The solids were collected by filtration. The filter cake was washed with 1×100 ml of water, 100 ml of diethyl ether and 100 mL of methanol. This resulted in 12 g (53%) of 6,7-dimethoxy-2-(3,4,5-trimethoxyphenyl)quinazolin-4-ol as a brown solid. MS (ESI) m/z 373 [M+h]+

reactant | 2-amino-4,5-dimethoxybenzamide | 61.16 mmol, 12 g, 1.00 equiv | NC1=C(C(=O)N)C=C(C(=C1)OC)OC | C9H12N2O3
reactant | dimethylacetamide | 200 mL | CC(=O)N(C)C | C4H9NO
reactant | 3,4,5-trimethoxybenzaldehyde | 61.16 mmol, 12 g, 1.00 equiv | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | NaHSO3 | 91.83 mmol, 9.55 g, 1.50 equiv | OS(=O)[O-].[Na+]
solvent | water | 800 mL | O | H2O
product | 6,7-dimethoxy-2-(3,4,5-trimethoxyphenyl)quinazolin-4-ol | COC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=C(C(=C1)OC)OC)OC)O | C19H20N2O6
